Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex
 
Attending: ___.
 
Chief Complaint:
diarrhea 
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
Ms. ___ is an ___ female with history of A.
fib on xarelto, hypothyroid, dementia, recent admission for
volvulus s/p exploratory laparotomy, small bowel resection with
primary anastomosis on ___, who presents from her dementia
unit with diarrhea. Patient is unable to recall what happened
today or provide much additional history. At the time of this
note, no ALF records are available - ___ was contacted, there is
no one who can currently send records. 

According to EMS report, patient has had diarrhea for 1 day and
low-grade fever, and was found with feces smeared in her room. 
In
speaking with her HCP, niece ___, she reports she saw the
patient just yesterday and patient was doing well then.  She
confirms recent surgical history and also adds that patient had 
C
diff diagnosed at the ___ after discharge from ___ in ___. 

She was treated with po vancomycin for unknown duration of time
(?5 days) and improved with a negative cdiff repeat per niece. 
The patient was ultimately discharged back to her assisted 
living
facility after about ___ days at the ___. 

Per ___, the patient has had cdiff twice before in the 
setting
of a hip fracture & repair in ___, along with recurrent UTIs. 

In the ED, VS were notable for T 100.0, HR 96, BP 131/75, RR 18,
98% RA.  Exam was significant for abdominal pain with palpation. 

Labs and CT abdomen were obtained.  She was given IVF, macrobid
(for UTI), cipro, and flagyl for presumed colitis.  

Currently, the patient reports feeling fine "physically."  When
asked why she is here, she says "until they figure out what is
wrong with me."  She denies any n/v, abdominal pain.  She 
recalls
the diarrhea but cannot provide further information.  No
lightheadedness, dizziness, chest pain or SOB.  She denies any
dysuria or urinary symptoms - she wears a diaper.  No ___ 
swelling
or pain. 
 
Past Medical History:
Afib
Hyperthyroidism, s/p thyroidectomy
h/o VTE - DVT, unknown when this occurred
h/o colon CA
h/o hip fracture ___ s/p repair
C diff ___ in the last ___ year
Dementia 
closed loop bowel volvulus s/p ex lap ___
 
Social History:
___
Family History:
Non-contributory  
 
Physical Exam:
ADMISSION EXAM:
 
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate, MM
slightly dry. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, with TTP in the LLQ, no
peritoneal signs.  Bowel sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to self and place, face symmetric, gaze
conjugate with EOMI, speech fluent, moves all limbs, sensation 
to
light touch grossly intact throughout.  Conversation tangential
and out of context frequently. 
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
Gen: elderly woman laying comfortably in bed, NAD
HEENT: EOMI, ___, MMM
Lungs: CTAB
Heart: RRR, S1 and S2
Abdomen: soft, NT, ND, +BS
Ext: warm, 1+ b/l ___ edema
Skin: no rashes appreciated
Psych: calm and appropriate
Neuro: AOx1-2 (knows her name and DOB. Able to recall the month 
but thought the year was in the 3000s. Said the presidents name 
was "Dump" unclear if she actually knew but just didn't want to 
say). No focal deficits. Speech fluent. Moving all extremitis
 
Pertinent Results:
ADMISSION LABS:

___ 11:20PM BLOOD WBC-15.9* RBC-3.43* Hgb-9.0* Hct-29.1* 
MCV-85 MCH-26.2 MCHC-30.9* RDW-14.2 RDWSD-44.2 Plt ___
___ 11:20PM BLOOD Neuts-86.0* Lymphs-5.5* Monos-7.5 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-13.71* AbsLymp-0.88* 
AbsMono-1.19* AbsEos-0.00* AbsBaso-0.04
___ 11:20PM BLOOD ___ PTT-32.3 ___
___ 11:20PM BLOOD Glucose-76 UreaN-17 Creat-0.9 Na-138 
K-3.5 Cl-104 HCO3-15* AnGap-19*
___ 11:20PM BLOOD ALT-32 AST-47* AlkPhos-65 TotBili-0.7
___ 11:20PM BLOOD Lipase-33
___ 11:20PM BLOOD Albumin-3.7 Calcium-9.7 Phos-3.7 Mg-1.7
___ 11:29PM BLOOD Lactate-1.3

MICRO:

___ 2:50 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      Reported to and read back by ___ @ 2244 ON 
___. 
      POSITIVE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 
         The C. difficile PCR is highly sensitive for toxigenic 
strains of
         C. difficile and detects both C. difficile infection 
(CDI) and
         asymptomatic carriage. Therefore, positive C. diff PCR 
tests
         trigger reflex C. difficile toxin testing, which is 
highly
         specific for CDI. 

   C. difficile Toxin antigen assay (Final ___: 
      NEGATIVE.              (Reference Range-Negative).  
PERFORMED BY EIA. 
         This result indicates a low likelihood of C. difficile 
infection
         (CDI). 

IMAGING:

___ CT ABDOMEN/PELVIS

1. Mild hyperenhancement and wall thickening of the ascending 
and sigmoid
colon likely represents a mild colitis.  Diverticulosis without 
diverticulitis.  No additional etiology identified for patient's 
symptoms. Contrast did not reach patient's anastomosis, which 
otherwise appears within normal limits.
2. Multiple incidental findings, including enlarged common bile 
duct, likely due to post cholecystectomy state and patient age, 
2.8 cm nodule the medial limb of the left adrenal gland, 
consistent with myelolipoma, likely hemorrhagic cyst off the 
lower pole of the left kidney, and fibroid uterus.

DISCHARGE LABS:

___ 06:44AM BLOOD WBC-5.8 RBC-3.52* Hgb-9.1* Hct-29.7* 
MCV-84 MCH-25.9* MCHC-30.6* RDW-13.7 RDWSD-42.4 Plt ___
___ 06:44AM BLOOD ___ PTT-25.2 ___
___ 06:44AM BLOOD Plt ___
___ 06:44AM BLOOD Glucose-72 UreaN-7 Creat-0.7 Na-139 K-3.5 
Cl-107 HCO3-19* AnGap-13
___ 09:30AM BLOOD ALT-29 AST-37
 
Brief Hospital Course:
Ms. ___ is a ___ female with history of a fib on 
xarelto, hypothyroid, dementia, recent admission for volvulus 
s/p exploratory laparotomy, small bowel resection with primary 
anastomosis on ___ concerning for colitis, found to have 
positive c diff PCR. 
 
ACUTE/ACTIVE PROBLEMS:
# Diarrhea:
# Colitis: 
# C diff:
Seen on CT abdomen to have mild sigmoid colitis. C diff PCR 
positive, toxin negative. Per collateral information from her 
healthcare proxy (___), she was previously treated for c diff 
around ___ or ___ after developing confusion and diarrhea at 
rehab. She had been discharged to assisted living about one week 
later, off antibiotics but she isn't sure of the exact course. 
Per review of records at ___, c diff PCR had been negative at 
hospitalization here on ___. She was started on PO vancomycin 4x 
daily. Subsequently, per ID recommendations, her regimen was 
changed to PO fidaxomycin on pulse dose of 200mg BID days ___ 
then 200mg Q48h days ___, last day on ___. She will be 
discharged on to rehab to complete antibiotics. She has follow 
up wit hGI on ___ for possible FMT. Consider initiation of 
bezlotuxumab as an outpatient. 

# Acute metabolic encephalopathy on chronic dementia:
Patient is mostly independent at baseline, however not oriented. 
She has been more confused last few days per HCP. Currently is 
AOx1-2. She was placed on remeron QHS PRN during this 
hospitalization. She did not require any additional medications 
past 24hrs for agitation/delirium. She was continued on her home 
medications.

# ?UTI
Patient with frequent UTIs and positive u/a on admission. She 
denies any symptoms though unclear if she is able to reliably 
report symptoms. GNRs in urine culture. This was ultimately not 
felt to be a true infection, and no abx were administered. 

CHRONIC/STABLE PROBLEMS:

# Hyperthyroidism - continued propylthiouracil
# Atrial fibrillation - continued BB, digoxin, and Rivaroxaban

Transitional Issues:
[] f/u with outpatient GI on ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Metoprolol Tartrate 25 mg PO BID 
4. Propylthiouracil 100 mg PO Q8H 
5. Rivaroxaban 15 mg PO DINNER 
6. Digoxin 0.125 mg PO EVERY OTHER DAY 
7. TraZODone 25 mg PO TID  

 
Discharge Medications:
1.  fidaxomicin 200 mg oral BID 
Two pills daily on days ___, then once daily on alternate days 
on days ___ (last day = ___ 
RX *fidaxomicin [Dificid] 200 mg 1 tablet(s) by mouth twice a 
day Disp #*35 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
3.  Digoxin 0.125 mg PO EVERY OTHER DAY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Metoprolol Tartrate 25 mg PO BID  
6.  Propylthiouracil 100 mg PO Q8H  
7.  Rivaroxaban 15 mg PO DINNER  
8.  TraZODone 25 mg PO TID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cdiff colitis

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

We admitted you with an infection call C.diff. We think you are 
now doing better and are sending you back to your facility. You 
will need to follow up in our clinics, as listed below.

We wish you the best with your health.
___ Medicine
 
Followup Instructions:
___